US03956495
Four grams of 2,4,6-trichloroquinazoline was dissolved in 50 ml of tetrahydrofuran. The solution was cooled in an ice bath and 20 ml of piperidine was added with constant stirring. The reaction mixture was heated at reflux overnight and the solid which had precipitated was removed by filtration. The filtrate was evaporated to dryness and diluted with water. The oil which separated crystallized upon scratching. The solid was collected by filtration and recrystallized from ethanol to give 4.2 g of 2,4-bispiperidino-6-chloroquinazoline; m.p. 115°-118°. The following analytical data were obtained:

reactant | 2,4,6-trichloroquinazoline | Four grams | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | piperidine | 20 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-bispiperidino-6-chloroquinazoline | 4.2 g | N1(CCCCC1)C1=NC2=CC=C(C=C2C(=N1)N1CCCCC1)Cl | C18H23ClN4
